US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-5-(N-methylpiperidin-4-yloxy)-7-(2,2,2-trifluoroethoxy)quinazoline
A mixture of 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-(N-methylpiperidin-4-yloxy)quinazoline (0.1 g), 2,2,2-trifluoroethyl 4-toluenesulphonate (0.071 g), potassium carbonate (0.08 g) and DMF (2 ml) was stirred and heated to 95° C. for 24 hours. The mixture was cooled to ambient temperature and partitioned between ethyl acetate and water. The organic solution was washed with water and with brine, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using a 45:46:4 mixture of methylene chloride, ethyl acetate and methanol as eluent. There was thus obtained the title compound (0.058 g); NM: Spectrum: (CDCl3) 1.95–2.1 (m, is 2H), 2.1–2.3 (m, 2H), 2.32 (s, 3H), 2.3–2.45 (m, 2H), 2.75 (m, 2H), 4.48 (m, 2H), 4.64 (m, 1H), 6.05 (s, 2H), 6.6 (d, 1H), 6.74 (d, 1H), 6.78 (d, 1H), 6.97 (d, 1H), 8.5 (s, 1H), 9.28 (s, 1H); Mass Spectrum: M+H+ 511 and 513.

reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-(N-methylpiperidin-4-yloxy)quinazoline | 0.1 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCN(CC1)C)O)OCO2 | C21H21ClN4O4
reactant | 2,2,2-trifluoroethyl 4-toluenesulphonate | 0.071 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(F)(F)F)C | C9H9F3O3S
reactant | potassium carbonate | 0.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(6-chloro-2,3-methylenedioxyanilino)-5-(N-methylpiperidin-4-yloxy)-7-(2,2,2-trifluoroethoxy)quinazoline | 0.058 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCN(CC1)C)OCC(F)(F)F)OCO2 | C23H22ClF3N4O4
